US05000775
Ethyl 2-(cyclohexylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate
By the procedure of Example 4, 8.52 g (60 mmol) of cyclohexyl urea was reacted with 10.9 g (50 mmol) of ethyl 2-chloro-4,4,4-trifluoroacetoacetate at 140°-150° C. for 72 hours. The product was separated and then recrystallized several times from methylcyclohexane to yield 5.92 g of a fine white powder product (m.p.=73°-74° C.) identified in Table I.

reactant | cyclohexyl urea | 60 mmol, 8.52 g | C1(CCCCC1)NC(=O)N | C7H14N2O
reactant | ethyl 2-chloro-4,4,4-trifluoroacetoacetate | 50 mmol, 10.9 g | ClC(C(=O)OCC)C(=O)C(F)(F)F | C6H6ClF3O3
product | Ethyl 2-(cyclohexylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate | 5.92 g | C1(CCCCC1)NC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C13H17F3N2O3
